US05663440
In a 5-liter four-necked flask equipped with a stirring device, a thermometer, a condenser and a nitrogen substituting device, 317.0 g of aluminum chloride and 1.5 liters of nitrobenzene were mixed and then 209.0 g of benzoyl chloride was introduced with ice cooling to be dissolved, and then a solution of 100.0 g of diphenylmethane in 100 milliliters of nitrobenzene was added dropwise for 30 minutes. 30 minutes after the end of the dropwise adding, the temperature was increased to 70° C. by removing an ice bath, and stirring was carried out with maintaining the temperature for 5 hours. After the end of the reaction was confirmed by a gas chromatography, the reaction solution was poured on 1.0 liter of ice, and then extracted with 2.5 liters of chloroform. Thereafter, the solution was washed with a 6N-HCl aqueous solution, an aqueous solution of sodium hydrogencarbonate, brine and water, removed off chloroform and nitrobenzene by a rotary evaporator, and then 150.7 g of 1,1-bis(4-benzoylphenyl)methane was obtained as crystals after recrystallizing from ethyl acetate.

reactant | aluminum chloride | 317.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | 209.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | diphenylmethane | 100.0 g | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
solvent | nitrobenzene | 100 milliliters | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 1.5 liters | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 1,1-bis(4-benzoylphenyl)methane | 150.7 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)CC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C27H20O2
